US06143766
m-Anisidine (Aldrich Chemical Corp.) was substituted for p-anisidine in the procedure described in Journal Chemical Society, London, 1969:2223, Perkin Transactions I., which gave N-methyl-m-anisidine, as an oil, 24.5 g, 77% yield. NMR was consistent with structure. MS: APCI: M+1: 138.2 (M: 137.2).

reactant | m-Anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
product | N-methyl-m-anisidine | 77% yield | CNC=1C=C(OC)C=CC1 | C8H11NO
